US08138164B2
Step 1: (2E)-3-(4-Bromo-3-methoxyphenyl)acrylic acid
To a solution of 1-bromo-4-iodo-2-methoxybenzene (L. A. Hasvold et al, US 2004/0254159, EXAMPLE 57B) (33.45 g, 107 mmol) in MeCN (100 mL) was added acrylic acid (9.61 g, 133 mmol), Et3N (37.2 mL, 267 mmol) and palladium acetate (719 mg, 3.2 mmol). The reaction mixture was heated to 90° C. for 40 minutes, cooled to RT and poured into 2.4 L 1M HCl. After stirring for 30 minutes, the solid was filtered, heated to reflux in EtOH (230 mL), allowed to cool to RT and stirred overnight. The solid was filtered and washed with 1:1 EtOH hexane (50 mL) to give desired product. LRMS ESI+ (M+H)+257.0.

reactant | 1-bromo-4-iodo-2-methoxybenzene | BrC1=C(C=C(C=C1)I)OC | C7H6BrIO
reactant | acrylic acid | 133 mmol, 9.61 g | C(C=C)(=O)O | C3H4O2
reactant | Et3N | 267 mmol, 37.2 mL | CCN(CC)CC | C6H15N
reactant | HCl | 1M, 2.4 L | Cl | ClH
solvent | MeCN | 100 mL | CC#N | C2H3N
catalyst | palladium acetate | 3.2 mmol, 719 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2E)-3-(4-Bromo-3-methoxyphenyl)acrylic acid | BrC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C10H9BrO3
